US03985732
Preparation of Dextrorotatory 7-Fluoro-1,2,3,11a-tetrahydro-10-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-5,11(10H)-dione
A mixture of 6.2 g. of L-proline, 10.0 g. of 5-fluoro-N-methylisatoic anhydride and 30 ml. of dimethyl sulfoxide is heated on a steam bath for 6 hours, cooled and then diluted with 100 ml. of water. The reaction mixture is evaporated with benzene and the benzene layer is washed twice with water and concentrated. The residue is dissolved in ether and cooled. The crystals are filtered off and dried in a vacuum oven. The dextrorotatory 7-fluoro-1,2,3,11a-tetrahydro-10-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-5,11(10H)dione melts at 131°-132°, [α]D25 + 417° (1.6%, methanol).

reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 5-fluoro-N-methylisatoic anhydride | FC1=CC=C2C(C(=O)OC(N2C)=O)=C1 | C9H6FNO3
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 7-Fluoro-1,2,3,11a-tetrahydro-10-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-5,11(10H)-dione | FC=1C=CC2=C(C(N3C(C(N2C)=O)CCC3)=O)C1 | C13H13FN2O2
